US09359371B2
Preparation: N-benzyl-2-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-formamide (Compound 23)
In DCM were dissolved N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)pyrimidine-5-formamide (222 mg, 0.5 mmol) and DIEA (0.25 mL, 1.35 mmol). 3-oxo-8-azabicyclo[3.2.1] octane hydrochloride salt (90 mg, 0.6 mmol) was dissolved in THF and added to the reaction mixture at 0° C. The reaction was conducted at ambient temperature, followed by addition of water and extraction with ethyl acetate. The organic phase was washed sequentially with water and brine, and dried over sodium sulfate. The solvent was removed by rotary evaporation. Purification was performed by silica gel column chromatography (petroleum ether/ethyl acetate=1/1) to give a white solid (50 mg, 19% yield).

reactant | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)pyrimidine-5-formamide | 0.5 mmol, 222 mg | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)S(=O)C)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O3S
reactant | DIEA | 1.35 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-oxo-8-azabicyclo[3.2.1] octane hydrochloride salt | 0.6 mmol, 90 mg | Cl.O=C1CC2CCC(C1)N2
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-formamide | 50 mg, 19% yield | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N1C2CC(CC1CC2)=O)NCC2=CC(=C(C=C2)OC)Cl | C27H28ClN5O3
